Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])=[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.80493199598
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[O:10][H:11].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.4703096703
[C:1]#[C:2].[C:3](=[O:4])=[C:5]([H:6])[H:7]>>[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])[H:7],-2.21304217379
[H:1][C:2](=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:13]([H:14])([H:15])[H:16],3.50357408202
[C:1]#[C:2][C@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[H:9].[H:5],0.859854579297
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:1],2.73052583981
[O:1]=[C:2]=[C:3]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5]>>[O:1]=[C:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.2127339603400005
[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.972069250350001
[C:6]([H:7])([H:8])[H:9].[O:1][C@:2]([H:3])([C:4]#[C:5])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@@:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.754002293019999
[H:1][C:2]([H:3])[C:4][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.36652203031
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],1.7983349648900002
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][H:8].[O:9][H:10],6.5258437883800005
[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.65011244456
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1],4.2827782642
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7])[O:9][H:10].[H:8],4.76646819621
[O:1]=[C:2][C:7]([H:8])([H:9])[H:10].[O:3]=[C:4]([H:5])[H:6]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-1.27623613867
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.68528214152
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])[O:6][H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.09615645583
[H:1][O:2][C:3]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.898177062709999
[C:6]([H:7])([H:8])=[C:9][O:10][H:11].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],0.5825765560499999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13],3.66243513895
[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-2.45991064164
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2],6.734040953759999
[C:1]#[C:2][O:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1][C:2][O:3].[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],1.28744548972
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-1.3691476187399998
[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:7][O:8][H:9]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],-2.38220390526
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-1.57784499118
[H:1][C:2]#[C:9]/[C:8](=[C:6](/[C:4]#[C:3][H:5])[H:7])[H:10]>>[H:1][C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])=[C:8][C:9]1[H:10],1.57216726853
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.4476339793
